US04937245
4-[4,4-bis(p-fluorophenyl)butyl]-1-(5-chloro-2-pyridyl)-piperazine dihydrochloride
19.8 g (0.06 mole) of 1-[4,4-bis(p-fluorophenyl)butyl]-piperazine and 2.96 g (0.02 mole) of 2,5-dichloropyridine were heated together with 2 ml of toluene at 130° C. (temperature of oil bath) for 20 h.

reactant | 1-[4,4-bis(p-fluorophenyl)butyl]-piperazine | 0.06 mole, 19.8 g | FC1=CC=C(C=C1)C(CCCN1CCNCC1)C1=CC=C(C=C1)F | C20H24F2N2
reactant | 2,5-dichloropyridine | 0.02 mole, 2.96 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[4,4-bis(p-fluorophenyl)butyl]-1-(5-chloro-2-pyridyl)-piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=NC=C(C=C1)Cl)C1=CC=C(C=C1)F | InChI=1S/C25H26ClF2N3.2ClH/c26-21-7-12-25(29-18-21)31-16-14-30(15-17-31)13-1-2-24(19-3-8-22(27)9-4-19)20-5-10-23(28)11-6-20;;/h3-12,18,24H,1-2,13-17H2;2*1H
